US07723369B2
5-{4-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide (59 mg, 0.1 mmol) was treated as described in general procedure G using 4-propoxyphenylboronic acid (36 mg, 0.2 mmol) to give 5-{4-[4-(2,4-dichloro-phenyl)-2-(4′-propoxy-biphenyl-4-ylmethyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide.

reactant | 5-{4-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | 0.1 mmol, 59 mg | BrC1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)Cl)Cl)C2=CC=C(C=C2)N2CC(NS2(=O)=O)=O)C=C1 | C24H17BrCl2N4O3S
reactant | 4-propoxyphenylboronic acid | 0.2 mmol, 36 mg | C(CC)OC1=CC=C(C=C1)B(O)O | C9H13BO3
product | 5-{4-[4-(2,4-dichloro-phenyl)-2-(4′-propoxy-biphenyl-4-ylmethyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1)C1=CC=C(C=C1)N1CC(NS1(=O)=O)=O)CC1=CC=C(C=C1)C1=CC=C(C=C1)OCCC | C33H28Cl2N4O4S
